US04051248
1-Phenyl-8-[[1,2,3,4-tetrahydro-1-(n-decanoyloxy)-2-naphthalenyl]methyl]-1,3,8-triazaspiro[4.5]decan-4-one
1-Phenyl-8-[(1,2,3,4-tetrahydro-1-hydroxy-2-naphthalenyl)methyl]-1,3,8-triazaspiro[4.5]decan-4-one (0.15 mole) is dissolved in 50 ml of dry pyridine and treated with 3.0 g of n-decanoyl chloride. The resulting solution is stirred under a nitrogen atmosphere for 16 hours. The mixture is then poured into 400 ml of ice-water and the resulting suspension is stirred for 1 hour. Extraction with methylene chloride followed by washing the organic extracts with saturated sodium bicarbonate solution, drying over anhydrous sodium sulfate, and concentration in vacuo yields the title compound.

reactant | 1-Phenyl-8-[(1,2,3,4-tetrahydro-1-hydroxy-2-naphthalenyl)methyl]-1,3,8-triazaspiro[4.5]decan-4-one | 0.15 mole | C1(=CC=CC=C1)N1CNC(C12CCN(CC2)CC2C(C1=CC=CC=C1CC2)O)=O | C24H29N3O2
reactant | n-decanoyl chloride | 3.0 g | C(CCCCCCCCC)(=O)Cl | C10H19ClO
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 1-Phenyl-8-[[1,2,3,4-tetrahydro-1-(n-decanoyloxy)-2-naphthalenyl]methyl]-1,3,8-triazaspiro[4.5]decan-4-one | C1(=CC=CC=C1)N1CNC(C12CCN(CC2)CC2C(C1=CC=CC=C1CC2)OC(CCCCCCCCC)=O)=O | C34H47N3O3
